US05066658
N,N-Dimethyl-N'-decyl-N'-hydroxyurea
To a stirred slurry of N-decylhydroxylamine (1.71 g, 9.91 mmol) in the THF (20 ml) at room temperature under nitrogen was added triethylamine (1.51 ml, 1.1 equiv.). The reaction mixture was cooled to 5° C. and dimethyl carbamyl chloride (0.92 ml, 1.05 equiv.) was added dropwise over five minutes. After stirring for two hours, the mixture was poured into 1% aqueous citric acid, and worked up as in Example 1 above. Trituration with pentane gave the named compound as a white solid (2.15 g, 89% Yield), mp 44°-45° C.

reactant | N-decylhydroxylamine | 9.91 mmol, 1.71 g | C(CCCCCCCCC)NO | C10H23NO
reactant | triethylamine | 1.51 ml, 1.1 equiv. | C(C)N(CC)CC | C6H15N
reactant | dimethyl carbamyl chloride | 0.92 ml, 1.05 equiv. | CN(C(=O)Cl)C | C3H6ClNO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | N,N-Dimethyl-N'-decyl-N'-hydroxyurea | 2.15 g, 89% Yield | CN(C(=O)N(O)CCCCCCCCCC)C | C13H28N2O2
